US04577022
Methyl-5,6,7,8-tetrahydro-3-methylquinoline-8-carboxylate
8-Lithio-5,6,7,8-tetrahydro-3-methyl-8-trimethylsilylquinoline, prepared as in Example 3, is blown over onto ether at 0° C. through which a vigorous stream of CO2 gas is being passed. After the addition the resulting solid, lithium 5,6,7,8-tetrahydro-3-methyl-8-trimethylsilylquinoline-8-carboxylate, is removed by filtration. This is then dissolved in methanol (200 ml) and the solution treated with HCl gas to excess and heated at reflux for 4 hours. The solvent is removed in vacuo and the residue dissolved in water (50 ml), made alkaline with 2N NaOH and extracted with chloroform. The extracts are dried, evaporated and the residue distilled to give the title compound as a pale yellow oil bp 120°/0.25 mm.

reactant | 8-Lithio-5,6,7,8-tetrahydro-3-methyl-8-trimethylsilylquinoline | [Li]C1(CCCC=2C=C(C=NC12)C)[Si](C)(C)C
reactant | CO2 | C(=O)=O | CO2
reactant | lithium 5,6,7,8-tetrahydro-3-methyl-8-trimethylsilylquinoline-8-carboxylate | CC=1C=NC=2C(CCCC2C1)(C(=O)[O-])[Si](C)(C)C.[Li+]
product | Methyl-5,6,7,8-tetrahydro-3-methylquinoline-8-carboxylate | COC(=O)C1CCCC=2C=C(C=NC12)C | C12H15NO2
